US05811459
Tert-butyl 4-[2-(pyrimidin-4(3 H)-one-5-yl)ethynyl]benzoate (0.59 g, 2.0 mmol) was dissolved in EtOAc (20 ml) and treated with palladium-on-carbon (0.30 g, 10%]. The reaction was placed under a hydrogen atmosphere and stirred overnight at ambient temperature. The reaction was filtered and evaporated to give tert-butyl 4-[2-(pyrimidin-4(3 H)-on-5-yl)ethyl]benzoate which was used without further purification (0.6 g, quantitative).

reactant | Tert-butyl 4-[2-(pyrimidin-4(3 H)-one-5-yl)ethynyl]benzoate | 2.0 mmol, 0.59 g | N1=CNC(C(=C1)C#CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C17H16N2O3
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | tert-butyl 4-[2-(pyrimidin-4(3 H)-on-5-yl)ethyl]benzoate | N1=CNC(C(=C1)CCC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C17H20N2O3
